US05204478
To a solution of ethyl fluoroacetate (34 g) and ethyl formate (28 g) at 0° C. is added sodium methoxide (26 g). After 3.5 hours at 20° C., a solution of methyl malonamate (40 g) in methanol (350 mL) is added and the mixture heated at reflux for 0.5 hour. To the hot mixture is added a solution of 37% hydrochloric acid (48 mL) in water (352 mL). The reaction mixture is heated at reflux for 10 minutes. After standing at 0° C. for 18 hours, the mixture is filtered and the collected solid is washed with 3 to 400 mL of water and then vacuum dried to give methyl 2,6-dihydroxy-5-fluoronicotinate, (36.6 g, 61%): mp 208°-213° C.; HPLC 95.4%.

reactant | ethyl fluoroacetate | 34 g | FCC(=O)OCC | C4H7FO2
reactant | ethyl formate | 28 g | C(=O)OCC | C3H6O2
reactant | sodium methoxide | 26 g | C[O-].[Na+]
reactant | methyl malonamate | 40 g | C(CC(=O)N)(=O)OC | C4H7NO3
reactant | hydrochloric acid | 48 mL | Cl | ClH
solvent | methanol | 350 mL | CO | CH4O
solvent | water | 352 mL | O | H2O
product | methyl 2,6-dihydroxy-5-fluoronicotinate | 36.6 g, 61% | OC1=C(C(=O)OC)C=C(C(=N1)O)F | C7H6FNO4
